US04959363
1-(3,4-Dichlorophenyl)-1,4-dihydro-4-oxo-7-(4-pyridinyl)-3-quinolinecarboxamide
The starting acid was prepared by hydrolysis of ethyl 1-(3,4-dichlorophenyl)-1,4-dihydro-4-oxo-7-(4- pyridinyl)-3-quinolinecarboxylate (tan solid, m.p. 238°-240 ° C. when recrystallized from toluene), in turn prepared according to the procedures of Example 1, parts (e) and (f), substituting 3,4-dichloroaniline for the 4-fluoroaniline of part (e).

reactant | ethyl 1-(3,4-dichlorophenyl)-1,4-dihydro-4-oxo-7-(4- pyridinyl)-3-quinolinecarboxylate | ClC=1C=C(C=CC1Cl)N1C=C(C(C2=CC=C(C=C12)C1=CC=NC=C1)=O)C(=O)OCC | C23H16Cl2N2O3
reactant | 3,4-dichloroaniline | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
product | 1-(3,4-Dichlorophenyl)-1,4-dihydro-4-oxo-7-(4-pyridinyl)-3-quinolinecarboxamide | ClC=1C=C(C=CC1Cl)N1C=C(C(C2=CC=C(C=C12)C1=CC=NC=C1)=O)C(=O)N | C21H13Cl2N3O2
